2161-10-13 06:19:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   Dyspnea
   24 Hour Events:
   Patient
s O2 sats dropped to mid 70s on 6L O2; started on
   non-rebreather and subsequently diursed.
   Allergies:
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2161-10-13**] 01:03 AM
   Infusions:
   Argatroban - 0.4 mcg/Kg/min
   Furosemide (Lasix) - 10 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2161-10-12**] 06:15 PM
   Morphine Sulfate - [**2161-10-13**] 02:52 AM
   Other medications:
   Lasix gtt
   Zosyn 2.25g IV q6hrs
   Vanco 1g q48hrs
   Argatroban gtt
   Advair
   Ipatropium
   Vancomycin po
   ASA 325mg
   Pantoprazole 40mg q24hrs
   Mirtazepine 7.5mg qhs
   Amiodarone 200mg daily
   Digoxin 0.125mg daily
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-10-13**] 06:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.7
C (96.3
   Tcurrent: 35.7
C (96.3
   HR: 118 (113 - 118) bpm
   BP: 107/54(72) {88/47(62) - 120/58(72)} mmHg
   RR: 30 (20 - 32) insp/min
   SpO2: 99%
   Heart rhythm: A Flut (Atrial Flutter)
   Height: 60 Inch
             Total In:
                                                                    412 mL
                                                                    120 mL
   PO:
             TF:
   IVF:
                                                                    112 mL
                                                                    120 mL
   Blood products:
   Total out:
                                                                  1,980 mL
                                                                  1,226 mL
   Urine:
                                                                    780 mL
                                                                  1,226 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,568 mL
                                                                 -1,106 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   SpO2: 99%
   ABG: 7.41/42/96.[**Numeric Identifier 7**]/24/1
   PaO2 / FiO2: 97
   Physical Examination
   VS -  115, 100/76, 29, 80%6L
   Gen: ill appearing female, mildly tachypneic. Oriented x3. Mood, affect
   appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   Neck: Supple 9cm JVP.
   CV: PMI located in 5th intercostal space, midclavicular line.
   irregularly irregular rhythm, 3/6 systolic murmur at RUSB, S2
   preserved. No thrills, lifts. No S3 or S4.
   Chest: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. crackles present bilaterally,
   rhonchi present bilaterally.
   Abd: Soft, distended, tender to palpation diffusely, Abd aorta not
   palpable, no bruit appreciated
   Ext: cyanosis, cool right foot, petechiae of dorsal and plantar left
   foot.
   Skin: bruising bilateral hands and arms, petechiae of left foot.
   .
   Pulses:
   Right: Carotid 2+ Femoral 2+ Popliteal 1+ DP 1+ PT 1+
   Left: Carotid 2+ Femoral 2+ Popliteal 1+ DP 1+ PT 1+
   Labs / Radiology
   178 K/uL
   10.1 g/dL
   81 mg/dL
   1.3 mg/dL
   24 mEq/L
   3.5 mEq/L
   21 mg/dL
   97 mEq/L
   135 mEq/L
   29.3 %
   6.6 K/uL
        [image002.jpg]
                            [**2161-10-12**]  10:37 PM
                            [**2161-10-13**]  12:16 AM
                            [**2161-10-13**]  02:32 AM
                            [**2161-10-13**]  02:47 AM
   WBC
   6.6
   Hct
   29.3
   Plt
   178
   Cr
   1.3
   TCO2
   25
   25
   28
   Glucose
   81
   Other labs: PT / PTT / INR:27.1/59.0/2.7, ALT / AST:30/32, Alk Phos / T
   Bili:95/0.6, Albumin:2.9 g/dL, LDH:245 IU/L, Ca++:6.7 mg/dL, Mg++:1.6
   mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   Patient is a 76 yo female with CAD, s/p AAA, PVD, CRI, who initially
   presented to OSH with CHF exacerbation, transferred from OSH for a.
   flutter ablation and course complication by hypoxia and anasarca.
   .
   #. Dyspnea/Hypoxia: On nonrebreather, Likely multifactorial as patient
   has a history of COPD, CHF and pneumonia.
   -Treating COPD with Advair 500/50 INH [**Hospital1 **], atrovent Neb q6H, continue
   xopenex nebs prn.
   -Treat HAP including vanc/zosyn.
   -Diurese as below with goal -2L
   .
   #. Pump: Pt volume overloaded on exam and needs aggressive diuresis.
   Echo on this hospitalization shows EF 30%
   -Lasix gtt
   - Consider dobutamine if BP won't tolerate Lasix gtt
   .
   #. Rhythm: Patient has a history of atrial flutter, s/p cardioversion.
   Initial plan was for ablation however given other medical issues at
   this time, holding.
   -Continue Lopressor, digoxin and amiodarone.
   -Check Dig levels after 4th dose
   -Switch to lovenox.  Send HIT [**Doctor First Name **] and Ab tests.
   .
   #. Abdominal Pain/Distension/Diarrhea: Patient has a history of open
   AAA repair, cholecystectomy and ventral hernia repair recently. C. Diff
   negative x3 but completing course of PO Vanc. CT abdomen shows occluded
   [**Female First Name (un) 2712**] but felt to be chronic as Lactate wnl.  Vascular surgery also
   following
   -d/c PO Vanc
   -Once medically stable, GI to consider flex sig
   .
   #.Pneumonia
   -Continue empiric coverage with Vanc/Zosyn
   .
   #. Severe PVD: History of AAA open repair. Patient has decreased
   perfusion of right foot, and evidence of embolic phenomenon on her left
   dorsal foot.
   -F/U Arterial studies
   .
   #. CAD: Patient has a history of severe three vessel disease s/p CABG.
   -holding BB
   -continue asa
   -no statin [**12-27**] elevated LFTs
   .
   #. FEN: Heart healthy diet, monitor and replete electrolytes
   .
   #. Access: PICC, will need to consider placing CVL
   .
   #. PPx: Lovenox
   .
   #. Code: Full Code
   .
   #. Dispo: CCU
   .
   #CONTACT: Daughter
   ICU [**Name2 (NI) 151**]
   Nutrition:
   Glycemic Control:
   Lines:
   Midline - [**2161-10-12**] 08:17 PM
   Arterial Line - [**2161-10-12**] 10:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2161-10-14 06:23:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 MIDLINE - STOP [**2161-10-13**] 05:00 PM
   was traversing SVC
 MULTI LUMEN - START [**2161-10-13**] 05:00 PM
   placed in IR. heparin free triple lumen.
 ARTERIAL LINE - STOP [**2161-10-14**] 01:02 AM
   Dislodged, unable to replace over wire
   EP recs-> ? aldactone, inc amio, [**Month (only) 453**] dig, possible cardioversion on
   Fri.
   Declining respiratory status with sats in 80s.  Patient stated that she
   did not want to be intubated to nursing and physicians.  She was
   started on CPAP per her wishes.
   Attempted to go from CPAP to 100% face [**Month (only) 1269**] unsuccessfully.
   Tele: tachy, multiple alarms for hypoxia.
   Patient anxious with CPAP.
   Allergies:
   Heparin Agents
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2161-10-13**] 10:30 AM
   Piperacillin/Tazobactam (Zosyn) - [**2161-10-14**] 01:00 AM
   Infusions:
   Argatroban - 0.4 mcg/Kg/min
   Furosemide (Lasix) - 20 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2161-10-13**] 09:00 AM
   Pantoprazole (Protonix) - [**2161-10-13**] 09:11 AM
   Morphine Sulfate - [**2161-10-13**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-10-14**] 05:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.6
C (96.1
   Tcurrent: 35.2
C (95.3
   HR: 119 (92 - 122) bpm
   BP: 86/73(76) {86/44(54) - 124/73(76)} mmHg
   RR: 28 (19 - 33) insp/min
   SpO2: 98%
   Heart rhythm: A Flut (Atrial Flutter)
   Height: 60 Inch
             Total In:
                                                                  1,692 mL
                                                                    485 mL
   PO:
                                                                    450 mL
                                                                     60 mL
   TF:
   IVF:
                                                                  1,046 mL
                                                                    176 mL
   Blood products:
   Total out:
                                                                  4,396 mL
                                                                  1,030 mL
   Urine:
                                                                  4,396 mL
                                                                  1,030 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,704 mL
                                                                   -544 mL
   Respiratory support
   O2 Delivery Device: Bipap [**Year (4 digits) 1269**]
   Ventilator mode: CPAP/PSV
   PS : 5 cmH2O
   PEEP: 5 cmH2O
   Vt (Spontaneous): 495 (27 - 662) mL
   RR (Spontaneous): 26
   FiO2: 100%
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: 7.40/48/75/28/3  @ 0522 AM
   Ve: 8 L/min
   PaO2 / FiO2: 75
   Physical Examination
   Gen: uncomfortable appearing woman on CPAP.  Oriented x3. Mood, affect
   appropriate.
   Neck: JVP not appreciable
   CV: PMI located in 5th intercostal space, midclavicular line.
   irregularly irregular rhythm, systolic murmur barely audible over CPAP.
   No thrills, lifts. No S3 or S4.
   Chest: No chest wall deformities, scoliosis or kyphosis. crackles
   present bilaterally, rhonchi present bilaterally.
   Abd: Soft, distended, tender to palpation diffusely
   Ext: cyanosis, cool right foot, petechiae of dorsal and plantar left
   foot.
   Skin: bruising bilateral hands and arms, petechiae of left foot.
   Labs / Radiology
                                     133
                               [image002.gif]
                                     92
                               [image002.gif]
                                     20
   [image004.gif]
   162
                                                                   AGap=16
   [image005.gif]
   4.1
                               [image002.gif]
                                     29
                               [image002.gif]
                                     1.3
   [image007.gif]
   Mg: 2.5
   97
                                                                    10.3 D
                                                            [image007.gif]
                                    10.1
   [image004.gif]
   207
                                   [image008.gif]
   [image004.gif]
                                    29.6
   [image007.gif]
   N:95.6 L:2.8 M:1.2 E:0.3 Bas:0.2
   PT: 29.7
   PTT: 69.1
   INR: 3.0
                            [**2161-10-12**]  10:37 PM
                            [**2161-10-13**]  12:16 AM
                            [**2161-10-13**]  02:32 AM
                            [**2161-10-13**]  02:47 AM
                            [**2161-10-13**]  10:25 AM
                            [**2161-10-13**]  06:36 PM
                            [**2161-10-13**]  06:52 PM
                            [**2161-10-13**]  09:39 PM
                            [**2161-10-13**]  11:28 PM
                            [**2161-10-14**]  05:22 AM
   WBC
   6.6
   Hct
   29.3
   30.7
   Plt
   178
   Cr
   1.3
   1.3
   TCO2
   25
   25
   28
   26
   28
   31
   30
   31
   Glucose
   81
   104
   Other labs: PT / PTT / INR:27.1/70.7/2.7, ALT / AST:30/32, Alk Phos / T
   Bili:95/0.6, Lactic Acid:1.2 mmol/L, Albumin:2.9 g/dL, LDH:245 IU/L,
   Ca++:6.7 mg/dL, Mg++:2.5 mg/dL, PO4:2.4 mg/dL
   Fluid analysis / Other labs:
   HITT antibody positive, serotonin pending
   Cerruloplasm negative
   Micro: No new growth
   CXR: RML evolving opacification c/f PNA, bilateral edema
   Assessment and Plan
   Patient is a 76 yo female with CAD, s/p AAA, PVD, CRI, who initially
   presented to OSH with CHF exacerbation, transferred from OSH for a.
   flutter ablation and course complication by hypoxia and anasarca.
   .
   #. Dyspnea/Hypoxia: Worsening hypoxia, likely from work of breathing.
   Primary process thought to be volume overload with component of COPD.
   Pneumonia appears likely giving evolving infiltrate on CXR.  Also has
   known diaphragmatic hemiparesis.  Patient appears unlikely to be able
   to wean from vent if intubated and would likely be trach dependent,
   which is clearly against her wishes.  Patient has expressed multiple
   times in clear mindset that she does not wish to be intubated but that
   she will defer this descision to her daughter.  [**Name (NI) **] daughter wishes for
   a trial of intubation.  PE unlikely on argatroban.
   -ethics consult regarding conflicting directives from patient and HCP
   -CPAP as necessary.  Might need intubation if acutely decompensating.
   -Treating COPD with Advair 500/50 INH [**Hospital1 **], atrovent Neb q6H, continue
   xopenex nebs prn.   No steroids as not wheezing on exam.
   -Treat HAP with vanc/zosyn.  Worsening WBC raises suspicion for ESBL,
   however, afebrile presently
   -Aggressive diuresis with goal -2L
   -Daily CXR
   .
   #. Pump: Pt volume overloaded admission but now s/p aggressive
   diuresis. Echo on this hospitalization shows EF 30%
   - Lasix gtt, will back down with goal -500cc to -1L
   .
   #. CAD: Patient has a history of severe three vessel disease s/p CABG.
   -holding BB given hypotension
   -continue asa
   -no statin [**12-27**] elevated LFTs
   .
   #. Rhythm: Patient has a history of atrial flutter, s/p cardioversion.
   Initial plan was for ablation however given other medical issues at
   this time, holding.
   -Continue digoxin and amiodarone.
   -Check Dig levels after 4th dose
   -Switch to lovenox.  Send HIT [**Doctor First Name **] and Ab tests.
   .
   #. Abdominal Pain/Distension/Diarrhea: Patient has a history of open
   AAA repair, cholecystectomy and ventral hernia repair recently. C. Diff
   negative x3 but completing course of PO Vanc. CT abdomen shows occluded
   [**Female First Name (un) 2712**] but felt to be chronic as Lactate wnl.  Vascular surgery also
   following
   -d/c PO Vanc
   -Once medically stable, GI to consider flex sig
   .
   #. Severe PVD: History of AAA open repair. Patient has decreased
   perfusion of right foot, and evidence of embolic phenomenon on her left
   dorsal foot.
   -F/U Arterial studies .
   .
   #. FEN: NPO on [**Last Name (LF) 1269**], [**First Name3 (LF) 124**] attempt to convert meds to IV, monitor and
   replete electrolytes
   .
   #. Access: 3L CVL
   .
   #. PPx: Argatroban as HITT (+)
   .
   #. Code: Full Code for now.  Will continue to attempt to clarify wishes
   with family.
   .
   #. Dispo: CCU
   .
   #CONTACT: Daughter [**First Name8 (NamePattern2) 2573**] [**Last Name (NamePattern1) **] [**Telephone/Fax (1) 2730**] HCP, or other daughter [**Name (NI) 166**]
   [**Telephone/Fax (1) 2731**].  Husband is at [**Telephone/Fax (1) 2732**]
   1. IV access: Temporary central access (ICU) Location: Right Internal
   Jugular, Date inserted: [**2161-10-13**] Order date: [**10-13**] @ 1736
   16. Lorazepam 0.5 mg IV ONCE MR1 Duration: 1 Doses Order date: [**10-13**] @
   2209
   2. OK to use line Order date: [**10-13**] @ 1753
   17. Magnesium Sulfate 4 gm IV ONCE Duration: 1 Doses Order date: [**10-13**]
   @ 0855
   3. Acetaminophen 325-650 mg PO Q6H:PRN
   Max 2gm per day  Order date: [**10-12**] @ 1819
   18. Mirtazapine 7.5 mg PO HS
   Hold for excess sedation  Order date: [**10-12**] @ 1819
   4. Acetylcysteine 20% 3-5 mL NEB Q6H:PRN cough, shortness of breath
   Order date: [**10-12**] @ 1819
   19. Morphine Sulfate 1-4 mg IV Q3H:PRN pain  Order date: [**10-13**] @ 1135
   5. Advair Diskus *NF* 500-50 mcg/Dose Inhalation 1 IH [**Hospital1 **]  Order date:
   [**10-12**] @ 1819
   20. Ondansetron 4 mg IV Q8H:PRN nausea  Order date: [**10-12**] @ 1819
   6. Amiodarone 400 mg PO DAILY  Order date: [**10-13**] @ 1309
   21. Pantoprazole 40 mg PO Q24H  Order date: [**10-12**] @ 1819
   7. Argatroban 0.904 mcg/kg/min IV DRIP INFUSION
   Titrate aPTT to 60-80 seconds  Order date: [**10-12**] @ 1819
   22. Piperacillin-Tazobactam Na 2.25 g IV Q6H
   Start date [**2161-10-11**]  Order date: [**10-12**] @ 1819
   8. Aspirin 325 mg PO DAILY  Order date: [**10-12**] @ 1819
   23. Sodium Chloride 0.9% Flush 3 mL IV Q8H:PRN line flush
   Peripheral line: Flush with 3 mL Normal Saline every 8 hours and PRN.
   Order date: [**10-12**] @ 1819
   9. Chlorothiazide 250 mg IV ONCE Duration: 1 Doses Order date: [**10-13**] @
   1453
   24. Sodium Chloride 0.9% Flush 10 mL IV PRN line flush
   PICC, non-heparin dependent: Flush with 10 mL Normal Saline daily and
   PRN per lumen.  Order date: [**10-12**] @ 1819
   10. Digoxin 0.0625 mg PO DAILY Start: In am Order date: [**10-13**] @ 0848
   25. Sodium Chloride 0.9% Flush 10 mL IV PRN line flush
   PICC, non-heparin dependent: Flush with 10 mL Normal Saline daily and
   PRN per lumen.  Order date: [**10-12**] @ 1819
   11. Furosemide 10-20 mg/hr IV DRIP INFUSION
   Titrate to UOP>200cc/hr  Order date: [**10-13**] @ 0852
   26. Sodium Chloride 0.9% Flush 10 mL IV PRN line flush
   Temporary Central Access-ICU: Flush with 10mL Normal Saline daily and
   PRN.  Order date: [**10-13**] @ 1736
   12. Furosemide 40 mg IV ONCE Duration: 1 Doses Order date: [**10-13**] @ 0855
   27. Vancomycin 1000 mg IV Q48H
   ID Approval will be required for this order in 10 hours.
   Start date [**2161-10-11**]  Order date: [**10-12**] @ 1819
   13. Ipratropium Bromide Neb 1 NEB IH Q6H  Order date: [**10-12**] @ 1819
   28. Xopenex *NF* 0.63 mg/3 mL Inhalation Q8H as needed for shortness of
   breath  Order date: [**10-12**] @ 1819
   14. Lidocaine 5% Patch [**11-26**] PTCH TD Q24
   Use for 12 hours  Order date: [**10-13**] @ 1133
   29. traZODONE 50 mg PO HS:PRN
   hold for excess sedation  Order date: [**10-13**] @ 2044
   15. Lorazepam 0.5 mg PO/IV Q6H:PRN
   Hold for excess sedation, RR < 10   Order date: [**10-13**] @ 2044